US08628751B2
Synthesis of Synthesis of 3-amino-6-[4-(dimethylamino)phenyl]-5-[4-(methylsulfonyl)phenyl]pyrazine-2-carboxylic acid
A mixture of 3-amino-6-chloro-5-[4-(methylsulfonyl)phenyl]pyrazine-2-carboxylic acid (0.18 mmol, 60 mg,), 4-(dimethylamino)phenyl boronic acid (0.24 mmol, 40 mg), tetrakis(triphenylphosphine) Pd(0) (0.033 mmol, 38 mg), cesium carbonate (2.1 mmol, 297 mg) in dimethylformamide (2 ml) and deionized water (0.4 ml) was mixed under argon at room temperature. The reaction was heated in a microwave reactor at 120° C. for 15 min. The product was characterized by LC-MS (5-50 acetonitrile with 0.1% trifluoroacetic acid, positive ion [M+H]+=413).

reactant | 3-amino-6-chloro-5-[4-(methylsulfonyl)phenyl]pyrazine-2-carboxylic acid | 0.18 mmol, 60 mg | NC=1C(=NC(=C(N1)C1=CC=C(C=C1)S(=O)(=O)C)Cl)C(=O)O | C12H10ClN3O4S
reactant | 4-(dimethylamino)phenyl boronic acid | 0.24 mmol, 40 mg | CN(C1=CC=C(C=C1)B(O)O)C | C8H12BNO2
reactant | cesium carbonate | 2.1 mmol, 297 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | water | 0.4 ml | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-amino-6-[4-(dimethylamino)phenyl]-5-[4-(methylsulfonyl)phenyl]pyrazine-2-carboxylic acid | NC=1C(=NC(=C(N1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)N(C)C)C(=O)O | C20H20N4O4S
